US07585885B2
(S)-2-sec-Butylamino-6-(1,1-difluoroethyl)-isonicotinic acid
Dissolve (S)-2-sec-butylamino-6-(1,1-difluoroethyl)-isonicotinic acid methyl ester (200 mg, 0.73 mmol) in methanol (3 mL). Slowly add 1 N lithium hydroxide (1.0 mL) and stir overnight at room temperature. Acidify the mixture to about pH=6 by 5 N HCl and concentrate to near dryness. Dilute with ethyl acetate (20 mL) and wash the organic layer with saturated aqueous sodium chloride. Dry (magnesium sulfate) and concentrate to give the title compound as a solid (95%).

reactant | (S)-2-sec-butylamino-6-(1,1-difluoroethyl)-isonicotinic acid methyl ester | 0.73 mmol, 200 mg | COC(C1=CC(=NC(=C1)C(C)(F)F)N[C@@H](C)CC)=O | C13H18F2N2O2
reactant | lithium hydroxide | 1 N, 1.0 mL | [OH-].[Li+]
reactant | HCl | 5 N | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
product | (S)-2-sec-Butylamino-6-(1,1-difluoroethyl)-isonicotinic acid | 95% | [C@H](C)(CC)NC=1C=C(C(=O)O)C=C(N1)C(C)(F)F | C12H16F2N2O2
